US05919803
[2-(1-Butoxy)-5-(5-trifluoromethyl-tetrazol-1-yl)-benzyl]-([2S,3S]-2-phenylpiperidin-3-yl)amine dihydrochloride
From 3-{tert-butoxycarbonyl-[2-(1-butoxy)-5-(5-trifluoromethyl-tetrazol-1-yl)-benzyl]-amino}-[2S,3S]-2-phenylpiperidine-1-carboxylic acid tert-butyl ester (345 mg, 0.51 mmol) using 4M-hydrogen chloride in dioxan (5 ml) at 40° C. to give the title compound as a white crystals from ethanol (218 mg). Found C, 51.78; H, 5.62; N, 15.13; C24H29F3N6O.2HCl.0.5H2O (556.46), requires C,51.80; H, 5.80; N, 15.10%. Mass spectrum (thermospray +ve) m/e 475 (MH+).

reactant | 3-{tert-butoxycarbonyl-[2-(1-butoxy)-5-(5-trifluoromethyl-tetrazol-1-yl)-benzyl]-amino}-[2S,3S]-2-phenylpiperidine-1-carboxylic acid tert-butyl ester | 0.51 mmol, 345 mg | C(C)(C)(C)OC(=O)N1[C@H]([C@H](CCC1)N(CC1=C(C=CC(=C1)N1N=NN=C1C(F)(F)F)OCCCC)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C34H45F3N6O5
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 218 mg | C(C)O | C2H6O
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
product | [2-(1-Butoxy)-5-(5-trifluoromethyl-tetrazol-1-yl)-benzyl]-([2S,3S]-2-phenylpiperidin-3-yl)amine dihydrochloride | Cl.Cl.C(CCC)OC1=C(CN[C@@H]2[C@@H](NCCC2)C2=CC=CC=C2)C=C(C=C1)N1N=NN=C1C(F)(F)F | InChI=1S/C24H29F3N6O.2ClH/c1-2-3-14-34-21-12-11-19(33-23(24(25,26)27)30-31-32-33)15-18(21)16-29-20-10-7-13-28-22(20)17-8-5-4-6-9-17;;/h4-6,8-9,11-12,15,20,22,28-29H,2-3,7,10,13-14,16H2,1H3;2*1H/t20-,22-;;/m0../s1
